US08895596B2
Step E 1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-2-(methylthio)-1H-benzimidazole.
Iodomethane (2 Min methyl-tert-butyl ether, 22.87 mL, 45.7 mmol) was added to a solution of cesium carbonate (14.9 g, 45.7 mmol) and 1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1,3-dihydro-2H-benzimidazole-2-thione (10.94 g, 22.87 mmol) in THF (100 mL). After stirring the reaction at rt overnight, the volatiles were removed. Chromatography of the resulting residue over silica eluting with 15-60% EtOAc/hexanes afforded the desired product as a beige solid.

reactant | Iodomethane | 45.7 mmol, 22.87 mL | IC | CH3I
reactant | cesium carbonate | 45.7 mmol, 14.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1,3-dihydro-2H-benzimidazole-2-thione | 22.87 mmol, 10.94 g | C1(=CC=C(C=C1)CN1C(NC2=C1C=C(C(=C2F)I)F)=S)C2=CC=CC=C2 | C20H13F2IN2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-2-(methylthio)-1H-benzimidazole | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)I)F)SC)C2=CC=CC=C2 | C21H15F2IN2S
